US04845228
2-Acetyl-4-phenylcyclohexanone, 1.68 g, 0.73 g of cyanoacetamide and a small quantity of piperidine were mixed with 10 ml of ethanol followed by heating to reflux for 2 hours. After cooling, the precipitated crystals were taken out by filtration and purified to give 1.5 g of 4-cyano-2,3,5,6,7,8-hexahydro-1-methyl-3-oxo-7-phenylisoquinoline.

reactant | 2-Acetyl-4-phenylcyclohexanone | C(C)(=O)C1C(CCC(C1)C1=CC=CC=C1)=O | C14H16O2
reactant | cyanoacetamide | 1.68 g | C(#N)CC(=O)N | C3H4N2O
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-cyano-2,3,5,6,7,8-hexahydro-1-methyl-3-oxo-7-phenylisoquinoline | 1.5 g | C(#N)C=1C(NC(=C2CC(CCC12)C1=CC=CC=C1)C)=O | C17H16N2O
